US05506234
A mixture of 16 g (0.06 mol) of 2-(2-chlorobenzyl)-6-nitrotoluene and 24.4 g (0.09 mol) of tripiperidinomethane is heated for 5 hours at 120° C. in a water jet vacuum with interconnection of a distillation assembly. Then the mixture is taken up in 200 ml of a mixture of 5 parts of toluene and 3 parts of glacial acetic acid and under stirring is added to a suspension of 144 g of iron powder and 362 g of silica gel in 800 ml the same toluene-glacial acetic acid mixture. The reaction mixture is refluxed for 1 hour under an argon atmosphere. After cooling it is diluted with methylene chloride and filtered off from a precipitate. The filtrate in succession is washed with 10% sodium carbonate solution, 5% sodium bisulfite solution and saturated common salt solution and then dried on sodium sulfate. The solution is concentrated by evaporation, the residue after chromatography on silica gel with a mixture of 4 parts of cyclohexane and one part of ethyl acetate and recrystallization from cyclohexane yields 9 g (58% of theory) of 4-(2-chlorobenzyl)-indole, melting point 76°-77° C.

reactant | 2-(2-chlorobenzyl)-6-nitrotoluene | 0.06 mol, 16 g | ClC1=C(CC2=C(C(=CC=C2)[N+](=O)[O-])C)C=CC=C1 | C14H12ClNO2
reactant | tripiperidinomethane | 0.09 mol, 24.4 g | N1(CCCCC1)C(N1CCCCC1)N1CCCCC1 | C16H31N3
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | iron | 144 g | [Fe] | Fe
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(2-chlorobenzyl)-indole | 9 g, 58% | ClC1=C(CC2=C3C=CNC3=CC=C2)C=CC=C1 | C15H12ClN
